US05099054
Hexadecyltributyl phosphonium hectorite (0.050 mmol) was mixed with 2.0 ml of water containing dissolved sodium iodide (0.264 mmol) and sodium thiosulfate (32.0 mmol) and toluene (2.0 ml) containing dissolved 1,2-dibromo-1,2-diphenyl ethane (1.0 mml). After vigorous stirring for a reaction time of 7 hr at 90° C. the emulsion was broken by centrifugation, and 1,2-diphenylethylene was obtained in 98.0% yield.

reactant | water | 2.0 ml | O | H2O
reactant | sodium iodide | 0.264 mmol | [I-].[Na+]
reactant | sodium thiosulfate | 32.0 mmol | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | 1,2-dibromo-1,2-diphenyl ethane | BrC(C(C1=CC=CC=C1)Br)C1=CC=CC=C1 | C14H12Br2
solvent | toluene | 2.0 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2-diphenylethylene | 98.0% yield | C1(=CC=CC=C1)C=CC1=CC=CC=C1 | C14H12
